US07872022B2
A solution of (−)-(3S,4R)-4-(4-fluoro-phenyl)-1-methyl-piperidine-3-carboxylic acid methyl ester (575 mg, 2.29 mmol) and 1-chloroethyl chloroformate (393 mg, 2.75 mmol) in 5 ml 1,2-dichloroethane was heated at reflux for 4 h. After cooling to room temperature and evaporation of the solvent in vacuo the residue was dissolved in 5 ml methanol. The solution was heated at reflux for 1 h, followed by cooling to room temperature and concentration in vacuo. The residue was dissolved in 11.5 ml of a 2 M aqueous solution of hydrochloric acid and heated at reflux over night. After cooling the reaction mixture to 0° C. on an ice-water bath were added consecutively 2.8 ml of a 32% aqueous solution of sodium hydroxide and a solution of di-tert-butyl dicarbonate (1.00 g, 4.58 mmol) in 15 ml 1,4-dioxane. The ice-water bath was removed after completed addition and stirring was continued at room temperature for 4 h. The pH of the reaction mixture was adjusted to 8 by the addition of 1 M aqueous sodium hydroxide solution. Washing with two portions of tert-butyl methyl ether was followed by back-extraction of the combined organic layers with 1 M aqueous sodium hydroxide solution. The combined aqueous layers were cooled to 0° C., acidified to pH 1 with ice-cold 4 M aqueous hydrochloric acid solution and extracted with three portions of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo to give (−)-(3S,4R)-4-(4-fluoro-phenyl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester (590 mg, 80%) with 93.8% ee.

reactant | (−)-(3S,4R)-4-(4-fluoro-phenyl)-1-methyl-piperidine-3-carboxylic acid methyl ester | 2.29 mmol, 575 mg | COC(=O)[C@@H]1CN(CC[C@H]1C1=CC=C(C=C1)F)C | C14H18FNO2
reactant | 1-chloroethyl chloroformate | 2.75 mmol, 393 mg | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | di-tert-butyl dicarbonate | 4.58 mmol, 1.00 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (−)-(3S,4R)-4-(4-fluoro-phenyl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 590 mg, 80% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC=C(C=C1)F)C(=O)O | C17H22FNO4
